US07067506B2
3-(2-Methoxy-5-methyl-phenyl)-1-methyl-1-pyrazin-2-yl-urea
To a 0.3 M stirred solution of 2-methylaminopyrazine (1 equiv.) in dichloroethane at room temperature under nitrogen was added 2-methoxy-5-methylphenylisocyanate (1 equiv.). The reaction was warmed to 80° C. overnight and then cooled to room temperature. In most cases, the product precipitated and was isolated by filtration. Alternatively the product could be isolated by silica gel chromatography using EtOAc/hexane or CH2Cl2/MeOH as eluant. 1H-NMR (400 MHz, CDCl3) δ8.57 (s, 1H), 8.32 (s, 1H), 8.31 (s, 1H), 8.17 (s, 1H), 6.80 (i, 2H), 3.90 (s, 3H), 3.56 (s, 3H), 2.32 (s, 3H). LRMS (ESI, Positive) m/e 273.2 (M+1).

reactant | 2-methylaminopyrazine | 1 equiv. | CNC1=NC=CN=C1 | C5H7N3
reactant | 2-methoxy-5-methylphenylisocyanate | 1 equiv. | COC1=C(C=C(C=C1)C)N=C=O | C9H9NO2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-(2-Methoxy-5-methyl-phenyl)-1-methyl-1-pyrazin-2-yl-urea | COC1=C(C=C(C=C1)C)NC(N(C1=NC=CN=C1)C)=O | C14H16N4O2
